US04814345
12.6 g of 2-[3-(N,N-diethylamino)-2-hydroxypropylaminocarbonyl]-3-hydroxy-1-phenylindole hydrochloride (0.03 mole) are mixed with 150 ml of methylene chloride, 4.2 ml of triethylamine (0.03 mole) and 3.9 ml of pivaloyl chloride (0.03 mole) and the reaction mixture allowed to stand for 3 h at room temperature. The mixture is subsequently washed with a saturated sodium chloride solution, dried over sodium sulfate and filtered. The solution is then evaporated, the residue dissolved in methylene chloride and purified by means of low pressure chromatography over silica gel acid. As the elution agent, first methylene chloride and subsequently methylene chloride containing 10% methanol are used. The 2-[3-(N,N-diethylamino)-2-hydroxypropylaminocarbonyl]-3-pivaloyloxy-1-phenylindole hydrochloride obtained as the residue after the evaporation of the eluate is then recrystallized from isopropanol. Melting point: 157°-159°.

reactant | 2-[3-(N,N-diethylamino)-2-hydroxypropylaminocarbonyl]-3-hydroxy-1-phenylindole hydrochloride | 0.03 mole, 12.6 g | Cl.C(C)N(CC)CC(CNC(=O)C=1N(C2=CC=CC=C2C1O)C1=CC=CC=C1)O
reactant | triethylamine | 0.03 mole, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.03 mole, 3.9 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-[3-(N,N-diethylamino)-2-hydroxypropylaminocarbonyl]-3-pivaloyloxy-1-phenylindole hydrochloride | Cl.C(C)N(CC)CC(CNC(=O)C=1N(C2=CC=CC=C2C1OC(C(C)(C)C)=O)C1=CC=CC=C1)O | InChI=1S/C27H35N3O4.ClH/c1-6-29(7-2)18-20(31)17-28-25(32)23-24(34-26(33)27(3,4)5)21-15-11-12-16-22(21)30(23)19-13-9-8-10-14-19;/h8-16,20,31H,6-7,17-18H2,1-5H3,(H,28,32);1H
